US06974831B2
2-[[3-(2-amino-1,2-dioxoethyl)-2-methyl-1-[2-(5-bromothiophen-2-yl)benzyl]-1,6,7,8-tetrahydrocyclopent[g]indol-4-yl]oxy]acetic acid
A mixture of 2-[[3-(2-amino-1,2-dioxoethyl)-2-methyl-1-[2-(5-bromothiophen-2-yl)benzyl]-1,6,7,8-tetrahydrocyclopent[g]indol-4-yl]oxy]acetic acid methyl ester (50 mg, 0.086 mmol) in dioxane (5 mL) was warmed until a clear solution was obtained. This solution was treated with 1M lithium hydroxide solution (1 mL) at room temperature for 90 min. The pH was adjusted to ˜3 with hydrochloric acid. The mixture was diluted with water and stirred for 15 min. The resulting precipitate was collected via vacuum filtration to provide 25 mg (51%) of the title compound as a green solid. TOS MS ES+ exact mass calculated for C27H24BrN2O5S (p+1): m/z=567.0589. Found: 567.0603.

reactant | 2-[[3-(2-amino-1,2-dioxoethyl)-2-methyl-1-[2-(5-bromothiophen-2-yl)benzyl]-1,6,7,8-tetrahydrocyclopent[g]indol-4-yl]oxy]acetic acid methyl ester | 0.086 mmol, 50 mg | COC(COC1=C2C(=C(N(C2=C2C(=C1)CCC2)CC2=C(C=CC=C2)C=2SC(=CC2)Br)C)C(C(=O)N)=O)=O | C28H25BrN2O5S
reactant | lithium hydroxide | 1M, 1 mL | [OH-].[Li+]
reactant | hydrochloric acid | Cl | ClH
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | 2-[[3-(2-amino-1,2-dioxoethyl)-2-methyl-1-[2-(5-bromothiophen-2-yl)benzyl]-1,6,7,8-tetrahydrocyclopent[g]indol-4-yl]oxy]acetic acid | 25 mg, 51% | NC(C(=O)C1=C(N(C2=C3C(=CC(=C12)OCC(=O)O)CCC3)CC3=C(C=CC=C3)C=3SC(=CC3)Br)C)=O | C27H23BrN2O5S
